US07652015B2
Heat a solution of 4-(4-amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (Preparation 20, 1 g, 3.41 mmol), (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (Preparation 38, 1.38 g, 3.41 mmol), and diisopropylethylamine (1.2 mL, 6.82 mmol) in DMSO (15 mL) at 60° C. for 5 d. Cool the resulting mixture to room temperature and partition between water and ethyl acetate using saturated aq. sodium chloride solution to aid phase separation. Extract the aqueous layer with ethyl acetate, wash the combined organic layers twice with water, dry over sodium sulfate and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with a gradient of ethyl acetate in dichloromethane to give 877 mg (43% yield) of 4-{4-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yloxy}-piperidine-1-carboxylic acid tert-butyl ester. LCMS ES+(m/z) 549 [M+H].

reactant | 4-(4-amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 3.41 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC(=C1)N | C15H23N3O3
reactant | (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 3.41 mmol, 1.38 g | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H20Cl3N3O2
reactant | diisopropylethylamine | 6.82 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 4-{4-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 877 mg, 43% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC(=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C30H40N6O4
